US07462630B2
Synthesis of cyclohexyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate:
86.1 mg (0.428 mmol) of {[(cyclohexyloxy)carbonyl]amino}acetic acid, 176 mg (0.642 mmol) of 4-(5H-dibenzo[a,d][7]annulen-5-ylidene)piperidine and 98.5 mg (0.514 mmol) of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride were suspended in 10 ml of dichloromethane. 0.086 ml (0.617 mmol) of triethylamine was added to the obtained suspension, and they were stirred at room temperature for 3 hours. The resultant mixture was concentrated under reduced pressure and then ethyl acetate was added to the residue. The resultant mixture was washed with saturated aqueous sodium hydrogencarbonate solution, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was purified by the silica gel chromatography (hexane:ethyl acetate=95:5 to 1:4) to obtain the title compound.

reactant | {[(cyclohexyloxy)carbonyl]amino}acetic acid | 0.428 mmol, 86.1 mg | C1(CCCCC1)OC(=O)NCC(=O)O | C9H15NO4
reactant | 4-(5H-dibenzo[a,d][7]annulen-5-ylidene)piperidine | 0.642 mmol, 176 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.514 mmol, 98.5 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | triethylamine | 0.617 mmol, 0.086 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | cyclohexyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethylcarbamate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNC(OC3CCCCC3)=O)=O | C29H32N2O3
